US05856518
7-Benzylamino-4-oxo-5-azaspiro[2.4]heptane
An autoclave was charged with 61.3 mg of 1-(1-benzylamino-1-cyanomethyl)-1-ethoxycarbonylcyclopropane, 0.2 ml of Raney nickel and 2.0 ml of ammonia-saturated ethanol, and the contents were stirred at room temperature for 2 hours in an atmosphere of hydrogen under a pressure of 30 kg/cm2. After completion of the reaction, the catalyst was removed by filtration and the resulting filtrate was concentrated under a reduced pressure to obtain 51.3 mg (quantitative) of the title compound in the form of light yellow oil.

reactant | 1-(1-benzylamino-1-cyanomethyl)-1-ethoxycarbonylcyclopropane | 61.3 mg | C(C1=CC=CC=C1)NC(C#N)C1(CC1)C(=O)OCC | C15H18N2O2
reactant | ammonia | 2.0 ml | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.2 ml | [Ni] | Ni
product | 7-Benzylamino-4-oxo-5-azaspiro[2.4]heptane | C(C1=CC=CC=C1)NC1CNC(C12CC2)=O | C13H16N2O
